US08022218B2
(a). 5-Bromo-2-methylsulfanyl-pyrimidine-4-carboxylic acid
At 5° C. triethylamine (16.9 ml) was added dropwise to a solution of mucobromic acid (10.31 g) and 2-methyl-isothiourea (11.13 g) in water (200 ml). After stirring at 5° C. for 3 h, the reaction mixture was allowed to warm up (room temperature) and stirring was continued for another 54 h. The reaction mixture was acidified with conc. HCl (33%). The title product was obtained by filtration. Yield: 4.1 g. MS-ESI: [M+H]+=249/251

reactant | triethylamine | 16.9 ml | C(C)N(CC)CC | C6H15N
reactant | mucobromic acid | 10.31 g | C(/C(/Br)=C(/Br)\C=O)(=O)O | C4H2Br2O3
reactant | 2-methyl-isothiourea | 11.13 g | CSC(N)=N | C2H6N2S
reactant | HCl | Cl | ClH
solvent | water | 200 ml | O | H2O
product | 5-Bromo-2-methylsulfanyl-pyrimidine-4-carboxylic acid | BrC=1C(=NC(=NC1)SC)C(=O)O | C6H5BrN2O2S
